US08242133B2
To a mixture of 0.49 g of 2-(3-chloropyridin-4-yl)methylideneamino-4-tert-butylphenol and 10 ml of methanol, 0.57 g of iodobenzene diacetate was added at room temperature and stirred for two hours. The reaction mixture was concentrated, and then water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated sodium chloride solution sequentially, and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.21 g of 2-(3-chloropyridin-4-yl)-5-tert-butylbenzoxazole (hereinafter, referred to as “active compound 20”).

reactant | 2-(3-chloropyridin-4-yl)methylideneamino-4-tert-butylphenol | 0.49 g | ClC=1C=NC=CC1C=NC1=C(C=CC(=C1)C(C)(C)C)O | C16H17ClN2O
reactant | iodobenzene diacetate | 0.57 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | methanol | 10 ml | CO | CH4O
product | 2-(3-chloropyridin-4-yl)-5-tert-butylbenzoxazole | 0.21 g | ClC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(C)(C)C | C16H15ClN2O
